US08633315B2
Step 5: Naphthalen-2-ylmethyl 3,3,3-trifluoro-2,2-dimethylpropanoate
A mixture of 3,3,3-trifluoro-2,2-dimethylpropanoic acid (2.96 g, 19.0 mmol), 2-(bromomethyl)naphthalene (4.19 g, 19.0 mmol), and potassium carbonate (7.86 g, 56.9 mmol) in 50 ml of anhydrous DMF was stirred at 30° C. overnight. Diluted with 150 ml of EtOAc, washed with 150 ml of H2O, 2×100 ml of 1N NaOH, 2×100 ml of 1N HCl, dried (Na2SO4) and concentrated to give an oil that was purified by ISCO using EtOAc in hexanes (5%) as eluents to provide the title compound as an oil.

reactant | 3,3,3-trifluoro-2,2-dimethylpropanoic acid | 19.0 mmol, 2.96 g | FC(C(C(=O)O)(C)C)(F)F | C5H7F3O2
reactant | 2-(bromomethyl)naphthalene | 19.0 mmol, 4.19 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium carbonate | 56.9 mmol, 7.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
product | Naphthalen-2-ylmethyl 3,3,3-trifluoro-2,2-dimethylpropanoate | FC(C(C(=O)OCC1=CC2=CC=CC=C2C=C1)(C)C)(F)F | C16H15F3O2
